US07595327B2
(3S,4R)-1-tert-Butyl 3-methyl 4-(4-(benzyloxy)phenylsulfonamido)-3-methylpiperidine-1,3-dicarboxylate (4.659 g, 8.09 mmol) was taken up in methanol (30 mL) and combined with Pearlman's catalyst (501 mg). The heterogeneous mixture was stirred under a hydrogen atmosphere for 0.5 h, and then filtered through celite and concentrated to give (3S,4R)-1-tert-butyl 3-methyl 4-(4-hydroxyphenylsulfonamido)-3-methylpiperidine-1,3-dicarboxylate (3.754 g, 7.73 mmol, 96%) as a colorless solid. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.16 (s, 3H) 1.24 (s, 9H) 1.37-1.48 (m, 10H) 1.68-1.77 (m, 2H) 2.54 (d, J=15.41 Hz, 1 H) 2.82 (td, J=13.20, 2.65 Hz, 1H) 3.27 (ddd, J=12.25, 8.59, 3.92 Hz, 1H) 4.00 (ddd, J=13.58, 2.53, 2.34 Hz, 1H) 4.33 (d, J=13.89 Hz, 1H) 6.85-6.89 (m, 2H) 7.67-7.72 (m, 2H).

reactant | (3S,4R)-1-tert-Butyl 3-methyl 4-(4-(benzyloxy)phenylsulfonamido)-3-methylpiperidine-1,3-dicarboxylate | 8.09 mmol, 4.659 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@](CN(CC1)C(=O)OC(C)(C)C)(C(=O)OC)C | C26H34N2O7S
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pearlman's catalyst | 501 mg | [OH-].[OH-].[Pd+2]
product | (3S,4R)-1-tert-butyl 3-methyl 4-(4-hydroxyphenylsulfonamido)-3-methylpiperidine-1,3-dicarboxylate | 7.73 mmol, 3.754 g, 96% | OC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@](CN(CC1)C(=O)OC(C)(C)C)(C(=O)OC)C | C19H28N2O7S
